US08012959B2
A 10 ml portion of 1-methyl-2-pyrrolidone solution containing 800 mg of 2-{[4-(piperidin-4-yloxy)phenyl]amino}-4-[(2,3,6-trifluorobenzyl)amino]-pyrimidine-5-carboxamide was mixed with 0.12 ml of methyl iodide and 300 mg of potassium carbonate, followed by stirring at room temperature for 1 hour and then at 60° C. for 30 minutes. A 0.1 ml portion of methyl iodide was further added thereto, followed by stirring for 30 minutes. The reaction mixture was cooled down to room temperature, mixed with water and then extracted with an ethyl acetate-THF mixed solvent. The organic layer was washed with water and saturated brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by a silica gel column chromatography (chloroform-methanol-aqueous ammonia) and further recrystallized from ethanol to obtain 197 mg of 2-({4-[(1-methylpiperidin-4-yl)oxy]phenyl}amino)-4-[(2,3,6-trifluorobenzyl)amino]pyrimidine-5-carboxamide as colorless crystals.

reactant | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | 2-{[4-(piperidin-4-yloxy)phenyl]amino}-4-[(2,3,6-trifluorobenzyl)amino]-pyrimidine-5-carboxamide | 800 mg | N1CCC(CC1)OC1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1=C(C(=CC=C1F)F)F)C(=O)N | C23H23F3N6O2
reactant | methyl iodide | 0.12 ml | CI | CH3I
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-({4-[(1-methylpiperidin-4-yl)oxy]phenyl}amino)-4-[(2,3,6-trifluorobenzyl)amino]pyrimidine-5-carboxamide | 197 mg | CN1CCC(CC1)OC1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1=C(C(=CC=C1F)F)F)C(=O)N | C24H25F3N6O2
